US04339450
(a) Preparation of the E- or Z-isomer of 4-(2,3-epoxypropoxy)-imino-4,5,6,7-tetrahydrobenzo[b]thiophene
A mixture of 100 g. (0.60 mol) of the E-oxime of 4-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene, 330 g. (3.6 mols) of epichlorohydrin and 391.2 g. (2.8 mols) of potassium carbonate in one liter of dimethylformamide is heated to 110° C. for 6 hours.

reactant | 4-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene | O=C1CCCC=2SC=CC21 | C8H8OS
reactant | epichlorohydrin | 3.6 mols | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 2.8 mols | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | one liter | CN(C=O)C | C3H7NO
product | 4-(2,3-epoxypropoxy)-imino-4,5,6,7-tetrahydrobenzo[b]thiophene | O1C(COC2C(CCC=3SC=CC32)=N)C1 | C11H13NO2S
